************************************************************************
* auCdl Netlist:
* 
* Library Name:  sar_adc
* Top Cell Name: SR_latch
* View Name:     schematic
* Netlisted on:  Apr 27 19:21:51 2016
************************************************************************

.INCLUDE  /projects/nanos/design_kit/TSMC90nmLPRF_616OA/Calibre/lvs/source_added
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: tsmcN90rf
* Cell Name:    nor2
* View Name:    schematic
************************************************************************

.SUBCKT nor2 A B G Gb P Pb Y
*.PININFO A:I B:I G:I Gb:I P:I Pb:I Y:O
MM0 Y B net15 Pb pch l=pl w=pw m=1*pf
MPM1 net15 A P Pb pch l=pl w=pw m=1*pf
MNM1 Y B G Gb nch l=nl w=nw m=1*nf
MM1 Y A G Gb nch l=nl w=nw m=1*nf
.ENDS

************************************************************************
* Library Name: sar_adc
* Cell Name:    SR_latch
* View Name:    schematic
************************************************************************

.SUBCKT SR_latch GND NQ Q R S VDD
*.PININFO R:I S:I NQ:O Q:O GND:B VDD:B
XI1 Q S GND GND VDD VDD NQ / nor2 nf=1 nw=200n nl=100n pf=1 pw=200n pl=100n
XI0 R NQ GND GND VDD VDD Q / nor2 nf=1 nw=200n nl=100n pf=1 pw=200n pl=100n
.ENDS

