************************************************************************
* auCdl Netlist:
* 
* Library Name:  sar_adc
* Top Cell Name: comparator_rail2rail_input_external_current_small
* View Name:     schematic
* Netlisted on:  Apr 23 14:31:24 2016
************************************************************************

.INCLUDE  /projects/nanos/design_kit/TSMC90nmLPRF_616OA/Calibre/lvs/source_added
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: sar_adc
* Cell Name:    comparator_rail2rail_input_external_current_small
* View Name:    schematic
************************************************************************

.SUBCKT comparator_rail2rail_input_external_current_small Gnd I_b I_t In Out 
+ Ref Vdd
*.PININFO In:I Ref:I Out:O Gnd:B I_b:B I_t:B Vdd:B
MM18 net30 I_b Gnd Gnd nch l=200n w=2u m=1
MM17 I_b I_b Gnd Gnd nch l=200n w=2u m=1
MM15 Out net38 Gnd Gnd nch l=500n w=1u m=1
MM13 net38 I_b Gnd Gnd nch l=200n w=1u m=1
MM11 net65 net65 Gnd Gnd nch l=100n w=2u m=2
MM10 net24 net65 Gnd Gnd nch l=100n w=2u m=2
MM5 net53 net48 Gnd Gnd nch l=100n w=2u m=2
MM4 net48 net48 Gnd Gnd nch l=100n w=2u m=2
MM1 net53 Ref net30 Gnd nch l=500n w=2u m=1
MM0 net24 In net30 Gnd nch l=500n w=2u m=1
MM19 net45 I_t Vdd Vdd pch l=200n w=2u m=1
MM16 I_t I_t Vdd Vdd pch l=200n w=2u m=1
MM14 Out net38 Vdd Vdd pch l=500n w=2u m=1
MM12 net38 net53 Vdd Vdd pch l=100n w=2u m=2
MM9 net53 net53 Vdd Vdd pch l=100n w=2u m=2
MM8 net24 net53 Vdd Vdd pch l=100n w=2.03u m=2
MM7 net53 net24 Vdd Vdd pch l=100n w=2.03u m=2
MM6 net24 net24 Vdd Vdd pch l=100n w=2u m=2
MM3 net65 Ref net45 Vdd pch l=500n w=2u m=1
MM2 net48 In net45 Vdd pch l=500n w=2u m=1
.ENDS

